US07531545B2
A solution of 4-amino-4-(S)-cyclohexyl-butyric acid tert-butyl ester (5 g, 20 mmol) and 4-formyl-5-nitro-2-phenoxypyridine (6 g, 24 mmol) in methylene chloride (100 mL) was stirred at room temperature overnight. NaBH(OAc)3 (0.8 gm, 4 mmol) was added, and the solution was stirred at room temperature for 5 hours. Additional NaBH(OAc)3 (7 g, 33 mmol) was added and the solution was stirred at room temperature for another one hour. The solution was then poured into EtOAc (100 mL). The organic layer washed with aqueous NaCl, dried over MgSO4 and evaporated to yield a residue which was purified by column chromatography (10% EtOAc/Heptane) to yield 4-(S)-cyclohexyl-4-[(5-nitro-2-phenoxy-pyridin-4-ylmethyl)-amino]-butyric acid tert-butyl ester as a brown oil.

reactant | 4-amino-4-(S)-cyclohexyl-butyric acid tert-butyl ester | 20 mmol, 5 g | C(C)(C)(C)OC(CC[C@@H](C1CCCCC1)N)=O | C14H27NO2
reactant | 4-formyl-5-nitro-2-phenoxypyridine | 24 mmol, 6 g | C(=O)C1=CC(=NC=C1[N+](=O)[O-])OC1=CC=CC=C1 | C12H8N2O4
reactant | NaBH(OAc)3 | 4 mmol, 0.8 gm | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaBH(OAc)3 | 33 mmol, 7 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-(S)-cyclohexyl-4-[(5-nitro-2-phenoxy-pyridin-4-ylmethyl)-amino]-butyric acid tert-butyl ester | C(C)(C)(C)OC(CC[C@H](NCC1=CC(=NC=C1[N+](=O)[O-])OC1=CC=CC=C1)C1CCCCC1)=O | C26H35N3O5
